US07544698B2
(S,S)-(2,5-Diaza-bicyclo[2.2.1]hept-2-yl)-(1H-indol-2-yl)-methanone hydrochloride salt
To a solution of (S,S)-5-(1H-indole-2-carbonyl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (124 mg, 0.36 mmol) in formic acid was added 5.0 N HCl (75 μL, 1.82 mmol). After 1 h at rt, the solution was diluted with MeOH (30 mL) and concentrated to give a purple solid (87 mg, 99%). MS (ESI): mass calcd. for C14H15N3O, 241.12; m/z found, 242.3 [M+H]+. 1H NMR (MeOD): 7.67-7.63 (m, 1H), 7.49-7.44 (m, 1H), 7.28-7.22 (m, 1H), 7.12-7.05 (m, 1H), 7.01-6.97 (m, 1H), 5.49 (s, 1H), 5.41-5.02 (m, 1H), 4.58 (s, 1H), 4.28-3.39 (m, 4H), 3.33-3.29 (m, 1H), 2.32-2.21 (m, 1H), 2.13-2.04 (m, 1H).

reactant | (S,S)-5-(1H-indole-2-carbonyl)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.36 mmol, 124 mg | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)C(=O)C=2NC1=CC=CC=C1C2 | C19H23N3O3
reactant | HCl | 1.82 mmol, 5.0 N, 75 μL | Cl | ClH
solvent | formic acid | C(=O)O | CH2O2
solvent | MeOH | 30 mL | CO | CH4O
product | (S,S)-(2,5-Diaza-bicyclo[2.2.1]hept-2-yl)-(1H-indol-2-yl)-methanone hydrochloride salt | 87 mg, 99% | Cl.[C@@H]12N(C[C@@H](NC1)C2)C(=O)C=2NC1=CC=CC=C1C2 | InChI=1S/C14H15N3O.ClH/c18-14(17-8-10-6-11(17)7-15-10)13-5-9-3-1-2-4-12(9)16-13;/h1-5,10-11,15-16H,6-8H2;1H/t10-,11-;/m0./s1
